US05366989
In 20 ml of dioxane were dissolved 300 mg of 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyric acid and 110 mg of N-hydroxysuccinimide. To the resulting solution was added 200 mg of N,N'-dicyclohexylcarbodiimide. Then, the resulting mixture was subjected to reaction at 15°-25° C. for 3 hours. The reaction mixture was subjected to filtration to remove the insolubles, and 4.5 ml of a concentrated aqueous ammonia solution was added to the filtrate. The resulting mixture was subjected to reaction at 15°-25° C. for 20 hours. Then, the solvent was removed by distillation under reduced pressure. To the residue obtained were added 20 ml of ethyl acetate and 10 ml of water. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluant: chloroform/methanol=10/1) to obtain 70 mg of 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanamide.

reactant | 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyric acid | 300 mg | FC1=C(C=CC(=C1)F)C(C(C(=O)O)(F)F)(CN1N=CN=C1)O | C12H9F4N3O3
reactant | N-hydroxysuccinimide | 110 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 200 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butanamide | 70 mg | FC1=C(C=CC(=C1)F)C(C(C(=O)N)(F)F)(CN1N=CN=C1)O | C12H10F4N4O2
